US08097610B2
Preparation of [3-[2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid
A mixture of [3-[2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid methyl ester (8.49 g), 2N aqueous sodium hydroxide solution (22 mL), methanol (50 mL) and tetrahydrofuran (50 mL) was stirred at room temperature for 1.5 hours. To the reaction solution were added water and brine. The mixture was washed with ethyl acetate. The water layer was neutralized with 2N hydrochloric acid and extracted with chloroform. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was washed with diisopropyl ether to give the title compound (5.81 g).

reactant | [3-[2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid methyl ester | 8.49 g | COC(CC1=CC(=C(C=C1)C)OCCN1C(CN(CC1C)C=1SC(=CN1)Br)C)=O | C21H28BrN3O3S
reactant | sodium hydroxide | 2N, 22 mL | [OH-].[Na+]
reactant | methanol | 50 mL | CO | CH4O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | [3-[2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid | 5.81 g, Yield: 71% | BrC1=CN=C(S1)N1CC(N(C(C1)C)CCOC=1C=C(C=CC1C)CC(=O)O)C | C20H26BrN3O3S
